US06277861B1
7-Nitro-2,4,4-trimethyl-4H-isoquinoline-1,3-dione
2,4,4-Trimethyl-4H-isoquinoline-1,3-dione (5 g, 24.6 mmol) [prepared according to H. Takechi et al., Synthesis. 1992, 778] was dissolved in concentrated sulfuric acid (50 ml) at 0° C. Fuming nitric acid (2.5 ml) was added dropwise over 5 min and the reaction warmed to 25° C. After stirring for 30 min at 25° C. the reaction mixture was poured into ice water (100 ml) and the organics extracted into dichloromethane (3×50 ml). The combined organic extracts were dried over magnesium sulfate and evaporated in vacuo to give the title compound (5.31 g, 86%).

reactant | 2,4,4-Trimethyl-4H-isoquinoline-1,3-dione | 24.6 mmol, 5 g | CN1C(C2=CC=CC=C2C(C1=O)(C)C)=O | C12H13NO2
reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Nitro-2,4,4-trimethyl-4H-isoquinoline-1,3-dione | 5.31 g, 86% | [N+](=O)([O-])C1=CC=C2C(C(N(C(C2=C1)=O)C)=O)(C)C | C12H12N2O4
